US08497264B2
In a microwave vial, potassium phosphate (0.307 g, 1.448 mmol), PdCl2(AmPhos)2 (0.026 g, 0.036 mmol), (S)-5-amino-2′-bromo-4′-fluoro-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-7′-ol (0.183 g, 0.483 mmol), and 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.147 g, 0.700 mmol) were suspended in dioxane (4 mL) and water (1.6 mL). Argon was blown through the vessel, which was sealed and heated by microwave at 120° C. for 30 min. The reaction was concentrated, and the residue was neutralized with ⅓ saturated aqueous NH4Cl (15 mL) and the aqueous phase was extracted with 5% MeOH-DCM (3×25 mL). The organics were combined, washed with dilute brine (7 mL), and concentrated to afford (S)-5-amino-2′-(3,6-dihydro-2H-pyran-4-yl)-4′-fluoro-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-7′-ol which was used in the next step without further purification.

reactant | potassium phosphate | 1.448 mmol, 0.307 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | (S)-5-amino-2′-bromo-4′-fluoro-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-7′-ol | 0.483 mmol, 0.183 g | NC1=N[C@]2(C3=CC(=CC=C3OC=3C(=CC(=CC23)Br)F)O)COC1 | C16H12BrFN2O3
reactant | 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.700 mmol, 0.147 g | O1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C11H19BO3
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | water | 1.6 mL | O | H2O
catalyst | PdCl2(AmPhos)2 | 0.036 mmol, 0.026 g | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | (S)-5-amino-2′-(3,6-dihydro-2H-pyran-4-yl)-4′-fluoro-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-7′-ol | NC1=N[C@]2(C3=CC(=CC=C3OC=3C(=CC(=CC23)C=2CCOCC2)F)O)COC1 | C21H19FN2O4
